US04379154
A solution of pyrazinylmethyl 3-chloropropyl sulphide (59 g) in anhydrous tetrahydrofuran (75 cc) is added dropwise, in the course of 15 minutes and whilst keeping the temperature below 30° C., to a solution of potassium tert.-butoxide (51 g) in a mixture of anhydrous hexamethylphosphorotriamide (75 cc) and anhydrous tetrahydrofuran (400 cc). After stirring for 30 minutes at the same temperature, potassium tert.-butoxide (10 g) is added and stirring is continued for 30 minutes. The reaction mixture is then run into a mixture of distilled water (800 cc) and diethyl ether (400 cc). After decantation, the aqueous phase is extracted twice with diethyl ether (300 cc in total). The organic extracts are combined, washed three times with distilled water (2400 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. The product obtained (30 g) is chromatographed on neutral silica gel (100 g) contained in a column of diameter 3 cm; the column is eluated with cyclohexane (750 cc), a cyclohexane/ethyl acetate mixture (90/10 by volume; 2500 cc) and ethyl acetate (500 cc), 250 cc fractions being collected. Fractions 4 to 15 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. 2-Pyrazinyltetrahydrothiophen (19.5 g) is thus obtained in the form of a brown oil.

reactant | pyrazinylmethyl 3-chloropropyl sulphide | 59 g | ClCCCSCC1=NC=CN=C1 | C8H11ClN2S
reactant | potassium tert.-butoxide | 51 g | CC(C)([O-])C.[K+]
reactant | hexamethylphosphorotriamide | 75 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | potassium tert.-butoxide | 10 g | CC(C)([O-])C.[K+]
reactant | water | 800 cc | O | H2O
solvent | tetrahydrofuran | 75 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 cc | C(C)OCC | C4H10O
product | 2-Pyrazinyltetrahydrothiophen | 19.5 g | N1=C(C=NC=C1)C1SCCC1 | C8H10N2S
